US04272525
A. N-Trifluoroacetyl-Ethanolamine
Ethanolamine (12 g) is dissolved in methanol (50 ml) and S-ethylthiotrifluoroacetate (35 g) is added dropwise. The reaction is permitted to stand overnight irrigated with a stream of argon to remove ethanethiol. The excess solvent is removed in vacuo to leave the title product.

reactant | Ethanolamine | 12 g | C(O)CN | C2H7NO
reactant | S-ethylthiotrifluoroacetate | 35 g | CCSC(=O)C(F)(F)F | C4H5F3OS
solvent | methanol | 50 ml | CO | CH4O
product | N-Trifluoroacetyl-Ethanolamine | FC(C(=O)NCCO)(F)F | C4H6F3NO2
